US05134231
Benzyl (S)-3-oxo-4-methyl-5-benzyloxymethoxypentanoate (140 mg; 0.39 mmole) was dissolved in benzyl alcohol (0.9 ml), and molecular sieve 3A (0.2 g), benzylamine (50 mg; 0.47 mmole) and triethylamine hydrochloride (54 mg; 0.39 mmole) were added thereto, followed by stirring at 80° C. for 10 hours. The reaction mixture was diluted with chloroform (10 ml), and after removal of insoluble materials such as molecular sieve by filtration, the filtrate was washed with water. The organic layer was dried over anhydrous magnesium sulfate, followed by removal of the solvent under reduced pressure. Then, benzyl alcohol was removed under reduced pressure, and the residue was dissolved in dry toluene. Gaseous ketene was introduced therein at room temperature. After completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give benzyl (R)-2-acetyl-3-benzylamino-4-methyl-5-benzyloxymethoxy-2-pentenoate.

reactant | Benzyl (S)-3-oxo-4-methyl-5-benzyloxymethoxypentanoate | 0.39 mmole, 140 mg | O=C(CC(=O)OCC1=CC=CC=C1)[C@H](COCOCC1=CC=CC=C1)C | C21H24O5
reactant | benzylamine | 0.47 mmole, 50 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine hydrochloride | 0.39 mmole, 54 mg | Cl.C(C)N(CC)CC
reactant | benzyl alcohol | 0.9 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | benzyl (R)-2-acetyl-3-benzylamino-4-methyl-5-benzyloxymethoxy-2-pentenoate | C(C)(=O)C(C(=O)OCC1=CC=CC=C1)=C([C@H](COCOCC1=CC=CC=C1)C)NCC1=CC=CC=C1 | C30H33NO5
